US06162824
(kkkk) O-(8-Phenyl-8H-indeno[2,1-b]thiophen-8-yl)-L-threonine:
from 8-phenyl-8H-indeno[2,1-b]thiophen-8-ol (Example 1pp) and Nα -(9-fluorenylmethoxycarbonyl)-L-threonine methyl ester following method A, using trifluoroacetic acid as catalyst in place of H2SO4 ;

reactant | 8-phenyl-8H-indeno[2,1-b]thiophen-8-ol | C1(=CC=CC=C1)C1(C=2C=CC=CC2C2=C1SC=C2)O | C17H12OS
reactant | Nα -(9-fluorenylmethoxycarbonyl)-L-threonine methyl ester | COC([C@@H](NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)[C@H](O)C)=O | C20H21NO5
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
catalyst | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | O-(8-Phenyl-8H-indeno[2,1-b]thiophen-8-yl)-L-threonine | C1(=CC=CC=C1)C1(C=2C=CC=CC2C2=C1SC=C2)O[C@@H]([C@H](N)C(=O)O)C | C21H19NO3S
